US06005034
Dichlorodimethylsilane is reacted with (2,4-dimethylcyclopentadienyl) (3',5'-dimethylcyclopentadienyl)sodium to obtain dimethyl(2,4-dimethylcyclopentadienyl)(3',5'-dimethylcyclopentadienyl)silane, which is reacted with butyllithium to obtain lithium dimethylsilylene(2,4-dimethylcyclopentadienyl)(3',5'-dimethylcyclopentadienyl), which is reacted in turn with hafnium tetrachloride to obtain dimethylsilylene(2,4-dimethylcyclopentadienyl)(3',5'-dimethylcyclopentadienyl)hafnium dichloride.

reactant | Dichlorodimethylsilane | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | (2,4-dimethylcyclopentadienyl) (3',5'-dimethylcyclopentadienyl)sodium | CC=1C(C=C(C1)C)C1(C=C(C=C1C)C)[Na]
product | dimethyl(2,4-dimethylcyclopentadienyl)(3',5'-dimethylcyclopentadienyl)silane | C[Si](C1C=C(C=C1C)C)(C1C(=CC(=C1)C)C)C | C16H24Si
